US07335658B2
6-[4-(3-BENZYL-5-TRIFLUOROMETHYL-3H-[1,2,3]TRIAZOLE-4-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 3-benzyl-5-trifluoromethyl-3H-[1,2,3]triazole-4-carboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white powder 37% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.04, 7.83, 7.36, 7.28, 6.99, 5.69, 3.94, 3.84, 3.70, 3.46, 1.75-1.61, 1.49, 0.91. MS (ES+) m/z 531.2 (M+1).

reactant | 3-benzyl-5-trifluoromethyl-3H-[1,2,3]triazole-4-carboxylic acid | C(C1=CC=CC=C1)N1N=NC(=C1C(=O)O)C(F)(F)F | C11H8F3N3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(3-BENZYL-5-TRIFLUOROMETHYL-3H-[1,2,3]TRIAZOLE-4-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C=1N(N=NC1C(F)(F)F)CC1=CC=CC=C1)C | C25H29F3N8O2
